US09211250B2
Desired stoichiometric quantities of N,N-dimethylaminoethyl methacrylate (DMAEMA), propylacrylic acid (PAA), and butylmethacrylate (BMA) were added to poly(DMAEMA) macroCTA dissolved in N,N-dimethylformamide (25 wt % monomer and macroCTA to solvent). For all polymerizations [M]o/[CTA]o and [CTA]o/[I]o were 250:1 and 10:1 respectively. Following the addition of V70 the solutions were purged with nitrogen for 30 min and allowed to react at 30° C. for 18 h, copolymering the included monomers to form the [DMAEMA/PAA/BMA] random copolymer block. The resultant diblock copolymers were isolated by precipitation into 50:50 v:v diethyl ether/pentane. The precipitated polymers were then redissolved in acetone and subsequently precipitated into pentane (×3) and dried overnight in vacuo.

reactant | N,N-dimethylaminoethyl methacrylate | C(C(=C)C)(=O)OCCN(C)C | C8H15NO2
reactant | propylacrylic acid | C(CC)C(C(=O)O)=C | C6H10O2
reactant | butylmethacrylate | C(CCC)OC(C(=C)C)=O | C8H14O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | DMAEMA PAA BMA | C(C(=C)C)(=O)OCCN(C)C.C(CC)C(C(=O)O)=C.C(CCC)OC(C(=C)C)=O | InChI=1S/C8H15NO2.C8H14O2.C6H10O2/c1-7(2)8(10)11-6-5-9(3)4;1-4-5-6-10-8(9)7(2)3;1-3-4-5(2)6(7)8/h1,5-6H2,2-4H3;2,4-6H2,1,3H3;2-4H2,1H3,(H,7,8)
